US04182757
3.6 g of D-glucose, 1.1 g of ethylamine and 2.5 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 1-(1). 5.5 g of 1-(2-chloroethyl)-3-ethyl-3-D-glucopyranosylurea are thereby obtained as colorless caramel.

reactant | D-glucose | 3.6 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ethylamine | 1.1 g | C(C)N | C2H7N
reactant | 2-chloroethyl isocyanate | 2.5 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-ethyl-3-D-glucopyranosylurea | 5.5 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC | C11H21ClN2O6
